US04996230
J. Preparation of 5-(ethoxycarbonyl)-3-hydroxy-9-oxo-9H-xanthene-2-propanoic acid
To a solution of 0.7 g of 2-(decyloxy)-4-[2-(ethoxycarbonyl)phenoxy]benzenepropanoic acid ethyl ester in methylene chloride at room temperature were added 0.187 g of aluminum chloride followed by 0.122 ml of oxalyl chloride. After stirring for approximately 1 hour, the mixture was poured into a combination of ice and hydrochloric acid. After stirring for approximately 1 hour, the layers were separated and the organic layer was dried and concentrated in vacuo. The material was used without further purification in the subsequent reaction.

reactant | 2-(decyloxy)-4-[2-(ethoxycarbonyl)phenoxy]benzenepropanoic acid ethyl ester | 0.7 g | C(C)OC(CCC1=C(C=C(C=C1)OC1=C(C=CC=C1)C(=O)OCC)OCCCCCCCCCC)=O | C30H42O6
reactant | aluminum chloride | 0.187 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | oxalyl chloride | 0.122 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-(ethoxycarbonyl)-3-hydroxy-9-oxo-9H-xanthene-2-propanoic acid | C(C)OC(=O)C1=C2OC=3C=C(C(=CC3C(C2=CC=C1)=O)CCC(=O)O)O | C19H16O7
